US05466820
In the same manner as in Reference Example 5, starting from 1.36 g of (1S)-1-[(2R)-2-(2,4-difluorophenyl)-2-oxiranyl]ethanol and 1.32 g of 1-(4-trifluoromethoxyphenyl)-2-(1H,3H)-imidazolone, 1-[(1R,2S)-2-(2,4-difluorophenyl)-2,3-epoxy-1-methylpropyl]-3-(4-trifluoromethoxyphenyl)-(2(1H,3H)-imidazolone (0.60 g) and 0.46 g of (2R)-2-(2,4-difluorophenyl)-2-[(1R)-1-[1-(4-trifluoromethoxyphenyl)-2-imidazolyloxy]ethyl]oxirane were obtained.

reactant | (1S)-1-[(2R)-2-(2,4-difluorophenyl)-2-oxiranyl]ethanol | 1.36 g | FC1=C(C=CC(=C1)F)[C@]1(OC1)[C@H](C)O | C10H10F2O2
reactant | 1-(4-trifluoromethoxyphenyl)-2-(1H,3H)-imidazolone | 1.32 g | FC(OC1=CC=C(C=C1)N1C(NC=C1)=O)(F)F | C10H7F3N2O2
reactant | 2(1H,3H)-imidazolone | 0.60 g | N1C(NC=C1)=O | C3H4N2O
product | (2R)-2-(2,4-difluorophenyl)-2-[(1R)-1-[1-(4-trifluoromethoxyphenyl)-2-imidazolyloxy]ethyl]oxirane | 0.46 g | FC1=C(C=CC(=C1)F)[C@]1(OC1)[C@@H](C)OC=1N(C=CN1)C1=CC=C(C=C1)OC(F)(F)F | C20H15F5N2O3
